Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O:1]=[C:2]([N+:6]#[C:5][C:4]#[C-:3])[H:7],78.8444678274836
[C+:3](=[C:4]([O-:5])[N:6]([H:14])[H:15])[H:12].[C:1]([C:2]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],5.139770902704711
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C-:4]([H:11])[N+:5]1([H:10])[H:12])([H:7])[H:8])[H:6],66.187008913357
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:6]([H:15])([H:16])[C@@:7]1([C:4][O:5][H:14])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],60.87943331264527
[C:1]([C@:2]1([H:11])[C:4](=[C:6]=[C:7]([C:3]([H:12])([H:13])[H:14])[H:15])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],70.34389712012909
[O:1]([C+:2]1[N:3]([H:8])[C-:4]([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12])[H:9]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],58.018805495557594
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:2]1(=[O:3])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C@@:6]1([O:7][H:16])[H:14].[N:1]([H:8])([H:9])[H:15],85.25433019942021
[C@@:1]12([H:7])[C@@:4]3([H:10])[O:3][C:2]([H:8])([H:9])[C@:6]1([H:12])[C@@:5]23[H:11]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],75.72650434037672
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([n:6]1[c:5]([H:14])[c:4]([H:13])[n+:3]([C-:2]([H:11])[H:12])[c:7]1[H:15])([H:8])([H:9])[H:10],99.7321134675768
[C:1](/[C:2]([O:3][H:10])=[N:4]\[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],21.112293784987695
[C:1]([C:2]([C:3](=[C:5]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:4]([C:6]([H:16])([H:17])[H:18])[H:13]>>[C:1]([C:2]([C:3]([O:4][H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],76.2750501660509
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3]([O:4][H:13])([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],74.83641466362701
[C:1](=[O:2])([H:8])[H:9].[C:3]1([H:11])=[C:7]([H:17])[C:4]1([C:5]([C:6]([H:10])([H:15])[H:16])([H:13])[H:14])[H:12]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],63.42182896906449
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[N:5](=[C:6]([H:13])[H:14])[H:12],81.6954073472068
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C-:3]([H:11])[N:4]([H:12])[C+:5]([N:6]([H:13])[H:14])[C:7]1([H:10])[H:15])([H:8])[H:9],91.5194274983725
[N:1]([C:2](=[O:3])[C:4](=[C-:5])[N+:7]#[C:6])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],17.279933497321394
[C:1](=[O:2])([H:7])[H:8].[C:3]1([H:9])=[C:4]([H:10])[O:5][C:6]1([H:11])[H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],60.01288670970824
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16]>>[C:1]([C:2]([C+:3]1[C:4]([H:11])([H:12])[C-:5]([H:13])[C:6]1([H:15])[H:16])([H:9])[H:10])([H:7])([H:8])[H:14],79.15369602603509
[C:6](=[O:7])([H:8])[H:13].[O:1]1[C:2]([H:9])([H:10])[C:3]1=[C:4]=[C:5]([H:11])[H:12]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],45.5776343475285
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:12])([C:4]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[C:5](=[C:6]=[O:7])([H:16])[H:17],75.75995338631199
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]([C+:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C-:6]([H:14])[N:7]1[H:15])[H:13],100.15993131614799
[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3]1\[C@@:4]([O:6][H:14])([H:10])[C:5]1([H:11])[H:12])[H:13])([H:7])([H:8])[H:9],98.35531469811069
[C:5]=[N:6][H:10].[N:1]1=[C:2]2[C:3]([H:7])([H:8])[C@@:4]12[H:9]>>[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],24.608616422950007
[C:1]([O:2][H:8])([C:6](=[O:7])[H:13])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][H:12]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],83.980105783914
